US06465455B1
3,4-Dimethoxybenzoyl chloride (2 g) was added to a stirred suspension of 2-chloro-5-nitroaniline (1.72 g) in pyridine (10 ml) at 20° C. The reaction mixture was heated to 100° C. for 1 hour. After cooling to ambient temperature, the reaction mixture was poured into water (100 ml). The resulting precipitate was collected, washed with water and dried. The solid was triturated under methylene chloride (20 ml) to give N-(2-chloro-5-nitrophenyl)-3,4-dimethoxybenzamide (1.2 g), m.p. 231-232° C.; NMR Spectrum: (DMSOd6) 3.82 (s, 6H), 7.08 (d, 1H), 7.62 (m, 1H), 7.82 (d, 1H), 8.08 (m, 1H), 8.54 (d, 1H), 10.07 (m, 1H);

reactant | 3,4-Dimethoxybenzoyl chloride | 2 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 2-chloro-5-nitroaniline | 1.72 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | water | 100 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-chloro-5-nitrophenyl)-3,4-dimethoxybenzamide | 1.2 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC(=C(C=C1)OC)OC)=O | C15H13ClN2O5
